US07053060B2
To a mixture of [3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetonitrile (0.41 g) in ethanol (5 mL) and water (10 mL) was added potassium hydroxide (0.68 g), and the mixture was heated under reflux for 4 hours. The reaction mixture was acidified by adding 2 mol/L aqueous hydrochloric acid solution, and the mixture was extracted with diethyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give [3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetic acid (0.41 g). To a solution of the obtained [3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetic acid (0.41 g) in tetrahydrofuran (10 mL) were added pyridine (0.19 mL), di-tert-butyl dicarbonate (0.50 g) and ammonium hydrogen carbonate (0.18 g), and the mixture was stirred at room temperature for 18 hours. To the reaction mixture was added 1 mol/L aqueous hydrochloric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 2-[3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetamide (0.38 g).

reactant | [3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetic acid | 0.41 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1CC1=CC=C(C=C1)CC)CC(=O)O | C24H24O3
reactant | di-tert-butyl dicarbonate | 0.50 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium hydrogen carbonate | 0.18 g | C(O)([O-])=O.[NH4+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | pyridine | 0.19 mL | N1=CC=CC=C1 | C5H5N
product | 2-[3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetamide | 0.38 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1CC1=CC=C(C=C1)CC)CC(=O)N | C24H25NO2
